US08022205B2
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and [4-(N-Boc-aminomethyl)phenyl]boronic acid as a boronic acid, 4-(4-tert-butoxycarbonylaminomethyl-phenyl)-2-(morpholin-4-yl)-7-(pyridin-3-yl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained. This was dissolved in 1N hydrochloric acid-acetic acid, followed by stirring at room temperature for 40 minutes, and diethyl ether was added to the reaction mixture, to filter off a solid, whereby the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | [4-(N-Boc-aminomethyl)phenyl]boronic acid | C(=O)(OC(C)(C)C)NCC1=CC=C(C=C1)B(O)O | C12H18BNO4
reactant | boronic acid | B(O)O | BH3O2
product | 4-(4-tert-butoxycarbonylaminomethyl-phenyl)-2-(morpholin-4-yl)-7-(pyridin-3-yl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C27H32N6O3
